US08026390B2
<2> The reaction described in <3> of Synthesis Example 1 was performed under the same conditions, except that the 9-anthracenecarbonyloxymethyl difluoromethanesulfonic acid sodium salt (3.82 g) produced in <1> of Synthesis Example 9 above was used instead of the benzoyloxymethyldifluorosulfonic acid sodium salt in the reaction with diphenylmethylphenylsulfonium trifluoromethanesulfonic acid sodium salt, and thus 3.86 g (yield 85.6%) of 9-anthracenecarboxylic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt as shown in the following reaction scheme 19 was obtained. The structure of the product was confirmed by 1H-NMR.

reactant | 9-anthracenecarbonyloxymethyl difluoromethanesulfonic acid sodium salt | 3.82 g | [Na+].C1=CC=CC2=CC3=CC=CC=C3C(=C12)C(=O)OCC(S(=O)(=O)[O-])(F)F
reactant | diphenylmethylphenylsulfonium trifluoromethanesulfonic acid sodium salt | [Na].FC(S(=O)(=O)[O-])(F)F.C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1
product | 9-anthracenecarboxylic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt | 3.86 g, yield 85.6% | C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1.FC(COC(=O)C=1C2=CC=CC=C2C=C2C=CC=CC12)(S(=O)(=O)O)F | InChI=1S/C19H16S.C17H12F2O5S/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)20-18-14-8-3-9-15-18;18-17(19,25(21,22)23)10-24-16(20)15-13-7-3-1-5-11(13)9-12-6-2-4-8-14(12)15/h1-15,19H;1-9H,10H2,(H,21,22,23)/p+1
